US06677487B2
Synthesis of 1-methyl-4-(BOC amino)pyrrole-2-carbonyl chloride
N-(1-chloro-2-methylprop-1-enyl)-N,N-dimethylamine (31 μL, 0.23 mmol) was added to a mixture of 1-methyl-4-(BOC amino)pyrrole-2-carboxylic acid (50 mg, 0.21 mmol) in CDCl3 (200 mL). After a few minutes, the 1H-NMR of the reaction mixture showed complete conversion of the acid to the acid chloride. The proton spectrum of this solution of acid chloride did not change on standing overnight at room temperature. 1H NMR (CDCl3): δ 7.35 (br s, 1H), 6.93 (d, J=2 Hz, 1H), 6.46 (br s, 1H), 3.82 (s, 3H), 1.50 (s, 9H).

reactant | N-(1-chloro-2-methylprop-1-enyl)-N,N-dimethylamine | 0.23 mmol, 31 μL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 1-methyl-4-(BOC amino)pyrrole-2-carboxylic acid | 0.21 mmol, 50 mg | CN1C(=CC(=C1)NC(=O)OC(C)(C)C)C(=O)O | C11H16N2O4
product | 1-methyl-4-(BOC amino)pyrrole-2-carbonyl chloride | CN1C(=CC(=C1)NC(=O)OC(C)(C)C)C(=O)Cl | C11H15ClN2O3
